US05574069
2-(1-Sulfonylamino-2-methylphenyl)ethylamine hydrochloride, which is synthesized in accordance with Example 4 from 2-(p-tolyl)ethylamine, can be converted into 2,5-difluoro-N-{5-[1-sulfonylamino-N-(methylaminocarbonyl)-2methylphenyl]-ethyl}-benzamide, melting point: 196°-198° C., as described first with 2,5-difluorobenzoyl chloride and then with N-methyltrichloroacetamide and sodium hydroxide in dimethyl sulfoxide.

reactant | 2-(p-tolyl)ethylamine | C1(=CC=C(C=C1)CCN)C | C9H13N
reactant | 2,5-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C=C(C=C1)F | C7H3ClF2O
reactant | N-methyltrichloroacetamide | CNC(C(Cl)(Cl)Cl)=O | C3H4Cl3NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 2-(1-Sulfonylamino-2-methylphenyl)ethylamine hydrochloride | Cl.S(=O)(=O)=NC1(C(C=CC=C1)C)CCN | InChI=1S/C9H14N2O2S.ClH/c1-8-4-2-3-5-9(8,6-7-10)11-14(12)13;/h2-5,8H,6-7,10H2,1H3;1H
